US04774253
34.8 g (0.20 mol) of 4-trifluoromethylbenzaldehyde and 20.2 g (0.20 mol) of 2,3-butanedione monoxime were dissolved in 100 ml of glacial acetic acid and the mixture was stirred at room temperature while passing gaseous hydrogen chloride through the mixture until a saturated solution was obtained. The mixture was stirred at room temperature overnight and then treated with an excess of anhydrous diethyl ether. The colourless crystalline precipitate was filtered off, washed free of mother liquors using fresh anhydrous diethyl ether and dried in vacuo to give 50 g (86%) of 2-(4-trifluoromethylphenyl)-4,5-dimethyloxazole N-oxide hydrochloride of melting point 175°-177° C. (decomposition).

reactant | 4-trifluoromethylbenzaldehyde | 0.20 mol, 34.8 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 2,3-butanedione monoxime | 0.20 mol, 20.2 g | C/C(=N\O)/C(=O)C | C4H7NO2
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-(4-trifluoromethylphenyl)-4,5-dimethyloxazole N-oxide hydrochloride | 50 g, 86% | Cl.FC(C1=CC=C(C=C1)C=1OC(=C([N+]1[O-])C)C)(F)F | InChI=1S/C12H10F3NO2.ClH/c1-7-8(2)18-11(16(7)17)9-3-5-10(6-4-9)12(13,14)15;/h3-6H,1-2H3;1H
